US07297816B2
(S)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[2-(3,4-dichloro-phenyl)-1-phenylcarbamoyl-ethyl]-benzamide
The title compound (25 mg, 45%) was prepared from (S)-2-[2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid and aniline as in Example 1, Part C. HPLC: RT=10.81 min. MS (ESI−): mass calcd. for C28H20Cl3N5O4S2, 660.98; m/z found, 658/660 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.54 (s, 1H), 8.39 (dd, J=7.1, 1.0, 1H), 8.19 (dd, J=8.8, 0.8, 1H), 7.75-7.67 (m, 2H), 7.67-7.62 (m, 1H), 7.47-7.42 (m, 2H), 7.42-7.33 (m, 4H), 7.26-7.23 (m, 1H), 7.11-7.09 (m, 1H), 6.96-6.90 (m, 2H), 4.84-4.77 (m, 1H), 3.23-3.10 (m, 2H).

reactant | (S)-2-[2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@H](C(=O)O)CC1=CC(=C(C=C1)Cl)Cl)C=CC(=C2)Cl | C22H15Cl3N4O5S2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | (S)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-N-[2-(3,4-dichloro-phenyl)-1-phenylcarbamoyl-ethyl]-benzamide | 25 mg, 45% | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@@H](CC1=CC(=C(C=C1)Cl)Cl)C(NC1=CC=CC=C1)=O)C=CC(=C2)Cl | C28H20Cl3N5O4S2
